US04528114
A solution of 7.08 g of p-[2-(trans-4-pentylcyclohexyl)ethyl]benzonitrile in 50 ml of absolute toluene was placed at 0° C. in a sulphonation flask under argon gasification and treated within 15 minutes with 29 ml of a 1.21N solution of diisobutylaluminium hydride in toluene in such a manner that the internal temperature did not exceed 5° C. After completion of the addition, the mixture was stirred at room temperature for a further 2 hours, then treated cautiously with 50 ml of 0.5N sulphuric acid and extracted three times with 100 ml of diethyl ether each time. The organic phases were washed twice with 50 ml of semi-saturated sodium chloride solution each time, dried over magnesium sulphate and concentrated. There were obtained 6.20 g (87%) of p-[2-(trans-4-pentylcyclohexyl)ethyl]benzaldehyde as a colourless viscous oil (purity 97%) which was used without additional purification.

reactant | p-[2-(trans-4-pentylcyclohexyl)ethyl]benzonitrile | 7.08 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCC1=CC=C(C#N)C=C1 | C20H29N
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sulphuric acid | 0.5N, 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | p-[2-(trans-4-pentylcyclohexyl)ethyl]benzaldehyde | 6.20 g, 87% | C(CCCC)[C@@H]1CC[C@H](CC1)CCC1=CC=C(C=O)C=C1 | C20H30O
